US08071592B2
(b) Ethyl 7-fluoro-4-hydroxy-2-oxo-1-(2-propen-1-yl)-1,2-dihydro-3-quinolinecarboxylate
To a solution of dimethyl malonate (2.84 g, 17.7 mmol) in DMF (50 ml) was added sodium hydride (0.71 g, 17.7 mmol, 60% in paraffin) over 5 min and the solution stirred for 0.5 h until effervescence ceased. 7-Fluoro-1-(2-propen-1-yl)-2H-3,1-benzoxazine-2,4(1H)-dione (3.92 g, 17.7 mmol) was added to the solution in one portion and the solution stirred at ambient temperature for 1 h then heated to 105° C. for 18 h. The solution was cooled and concentrated and the resulting residues separated between ethyl acetate and water. The aqueous was acidified with 2N hydrochloric acid then extracted with ethyl acetate. The organic extracts were dried and concentrated to yield the title compound as a tan solid (4.63 g, 90%).

reactant | dimethyl malonate | 17.7 mmol, 2.84 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium hydride | 17.7 mmol, 0.71 g | [H-].[Na+]
reactant | 7-Fluoro-1-(2-propen-1-yl)-2H-3,1-benzoxazine-2,4(1H)-dione | 17.7 mmol, 3.92 g | FC1=CC2=C(C(OC(N2CC=C)=O)=O)C=C1 | C11H8FNO3
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Ethyl 7-fluoro-4-hydroxy-2-oxo-1-(2-propen-1-yl)-1,2-dihydro-3-quinolinecarboxylate | 4.63 g, 90% | FC1=CC=C2C(=C(C(N(C2=C1)CC=C)=O)C(=O)OCC)O | C15H14FNO4
